US04013794
14.2 g (0.2 mole) of chlorine was passed into a solution of 41.5 g (0.2 mole) of 4-chloromethylsulphonylphenol in 200 ml acetic acid at 20° C. The mixture was stirred for a further 10 minutes and the solvent was then stripped off under reduced pressure. 100 ml of water were added to the residue and after crystallization the product was filtered off. 44.8 g (93% of theory) of 2-chloro-4-chloromethylsulfonylphenol were obtained in the form of a beige powder of melting point 108° C.

reactant | chlorine | 0.2 mole, 14.2 g | ClCl | Cl2
reactant | 4-chloromethylsulphonylphenol | 0.2 mole, 41.5 g | ClCS(=O)(=O)C1=CC=C(C=C1)O | C7H7ClO3S
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-4-chloromethylsulfonylphenol | 44.8 g, 93% | ClC1=C(C=CC(=C1)S(=O)(=O)CCl)O | C7H6Cl2O3S
